US04024253
5-Fluorosalicylic acid (5.15 g.) and 3,5-dichloro-4-hydroxyaniline (5.88 g.) were well mixed to which was added benzene (10 ml.) and N,N-dimethylaniline (4.35 ml.). Then with stirring thionyl chloride (3.3 ml.) was added and refluxed 30 minutes. The resulting solution was evaporated and the residue was dissolved in ethyl acetate and subjected to decolorization with activated charcoal followed by washing with 2 N hydrochloric acid and 2.5% sodium bicarbonate solution. The ethyl acetate was then extracted several times with 2 N sodium carbonate solution and the aqueous extracts were combined and brought to pH 1-2 with hydrochloric acid to give a precipitate which was recrystallized from aqueous acetone to give white needle-like crystals (5.7 g.) of 3,5-dichloro-2',4-dihydroxy-5'-fluorobenzanilide. Yield: 55%. Melting point: 227°-229° C.

reactant | 5-Fluorosalicylic acid | 5.15 g | FC1=CC=C(C(C(=O)O)=C1)O | C7H5FO3
reactant | 3,5-dichloro-4-hydroxyaniline | 5.88 g | ClC=1C=C(N)C=C(C1O)Cl | C6H5Cl2NO
reactant | N,N-dimethylaniline | 4.35 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | thionyl chloride | 3.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3,5-dichloro-2',4-dihydroxy-5'-fluorobenzanilide | 5.7 g, Yield: 55% | ClC=1C=C(C(=O)NC2=C(C=CC(=C2)F)O)C=C(C1O)Cl | C13H8Cl2FNO3
